US06888032B2
The general procedure in example 39 was followed. 4-Iodoaniline (219 mg, 1.0 mmol), m-thiocresol (119 μL, 1.0 mmol), CuI (10 mg, 0.05 mmol), K2CO3 (276 mg, 2.0 mmol), ethylene glycol (111 μL, 2.0 mmol) and 2-propanol (1.0 mL) were used to obtain the 4-(3-tolyl)sulfanylaniline (194 mg, 90% yield) as pale yellow liquid. Column chromatographic solvent (hexane/ethyl acetate=4/1). Rf=0.4 (hexane/ethyl acetate=4/1). 1H NMR (CDCl3, 300 MHz) δ 7.28 (dt, 2 H, J=7.5 Hz, 0.9 Hz), 7.08 (t, 1 H, J=7.8 Hz), 6.91 (t, 3 H, J=7.5 Hz), 3.71 (brs, 2 H), 2.26 (s, 3 H). 13C NMR (CDCl3, 75 MHz) δ 138.8, 138.1, 136.2, 128.9, 128.1, 126.4, 124.6, 117.5, 116.1, 100.0, 21.8. IR (neat, cm−1) 3460 (broad), 3377 (broad), 3211, 3051, 3027, 2919. MS (EI) m/z (relative intensity) 219 (100), 92 (80). HRMS (EI), Cald. for C13H13NS 215.0769. Found 215.0766.

reactant | 4-Iodoaniline | 1.0 mmol, 219 mg | IC1=CC=C(N)C=C1 | C6H6IN
reactant | m-thiocresol | 1.0 mmol, 119 μL | CC1=CC(=CC=C1)S | C7H8S
reactant | K2CO3 | 2.0 mmol, 276 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | ethylene glycol | 2.0 mmol, 111 μL | C(CO)O | C2H6O2
catalyst | CuI | 0.05 mmol, 10 mg | [Cu]I
solvent | 2-propanol | 1.0 mL | CC(C)O | C3H8O
product | 4-(3-tolyl)sulfanylaniline | 194 mg, 90% yield | C1(=CC(=CC=C1)SC1=CC=C(N)C=C1)C | C13H13NS
